US09290451B2
e) (S)-2-Cyclopropyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl) -ethylamine
A solution of (S)-tert-butyl 2-cyclopropyl-1-(5-methyl-1,2,4-oxadiazol-3-yl)ethylcarbamate (0.5 g, 2 mmol) in sat. hydrochloric acid (10 mL) was stirred at room temperature for 1 h. Then water (20 mL) was added. The water phase was washed with ethyl acetate (2×20 mL) and adjusted with 2 M sodium hydroxide solution to pH=9˜10. It was then extracted with ethyl acetate (2×20 mL). The organic layer was washed with brine (20 mL), dried over anhydrous sodium sulfate and concentrated to give crude product as a white solid (0.25 g, 80%); MS (EI): m/e 168.2 [M+H]+.

reactant | (S)-tert-butyl 2-cyclopropyl-1-(5-methyl-1,2,4-oxadiazol-3-yl)ethylcarbamate | 2 mmol, 0.5 g | C1(CC1)C[C@@H](C1=NOC(=N1)C)NC(OC(C)(C)C)=O | C13H21N3O3
reactant | water | 20 mL | O | H2O
solvent | hydrochloric acid | 10 mL | Cl | ClH
product | (S)-2-Cyclopropyl-1-(5-methyl-[1,2,4]oxadiazol-3-yl) -ethylamine | 0.25 g, 80% | C1(CC1)C[C@@H](C1=NOC(=N1)C)N | C8H13N3O
